US07615609B2
c) Z-Phg-D-Trp-Lys(BOC)-OMe
17.0 g H-D-Trp-Lys(BOC)-OMe are mixed with 80 ml THF. 9.2 g Z-Phg-OH are added to the grey suspension at RT. Addition of 4.4 g HOBt, rinsing with 20 ml THF. The turbid yellow solution is cooled down to 0° and a solution of 5.3 ml DICI in 15 ml THF added within 10 minutes. Stirring 2 hours at 0°, then 2 hours at RT. Then addition of a solution of 3.6 sulfuric acid in 57 ml water, extraction with 70 ml ethyl acetate, washing with water, saturated brine, 5% sodium hydrogencarbonate, 25% brine, drying over MgSO4 and evaporation. The white residue is stirred in 125 ml isopropyl acetate 2 hours at 40° and the suspension filtered. Drying of the residue at 40°: slightly yellow substance. HPLC: 96.3% b.a. (25.3 min).

reactant | H-D-Trp-Lys(BOC)-OMe | 17.0 g | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C23H34N4O5
reactant | Z-Phg-OH | 9.2 g | N([C@@H](C1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H15NO4
reactant | HOBt | 4.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | Z-Phg-D-Trp-Lys(BOC)-OMe | N([C@@H](C1=CC=CC=C1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C39H47N5O8
